*** Electro-thermal turn-on transient for 1-port thermalMMIC with thermal MESFET ***

.options f0=1.0e5 deltat=0.5us nsteps=100 temp=300. 

*.svtr  tstop = 50us n_freqs = 8 tstep=deltat check_imp=0
.tran2 tstop = 50us tstep=deltat im=0

inductor:l1 1 2 l=1e-9 
capacitor:c1 2 3 c=20e-11 

inductor:l2 3 7 l=15e-9  
resistor:r2 7 8 r=100

inductor:l3 4 5 l=15e-9  
resistor:r3 5 6 r=10
capacitor:cload 4 9 c=20e-12 
resistor:rload 9 0 r=50.

vsource:vbias 8 0  vdc = 0.3
vsource:vdrain 6 0 vdc = 3.
resistor:rin 11 1 r = 50
vsource:vs 11 0 
* f = f0 vac = .4

resistor:rs 123 0 r=1.144

*** Mesfet with power dissipation
mesfetct:m1 3 4 123 1000 "tref"
+ a0 = .016542 a1 = .0500214 a2 = .02012 a3 = -.00806592
+ gama = 2.16505 t = 5e-12 beta = -.0394707 is = 1e-9
+ vbd = 15 nr = 10 ib0 = 1e-9 cgs0 = .52785e-12 cgd0 = .087e-12 

*** Thermal circuit
thermalheatsinkmmic1:test1 1000 1001 Tambient=temp time_d=1 dt=deltat ntimesteps=nsteps
+ nfingers = 5
vsource:t1 1001 "tref" vdc=temp
resistor:rdummy 1000 1001 r=1e5

.ref "tref"

.out plot element "mesfetc:m1" 1 ut in "tran.vds"
.out plot element "thermalheatsinkmmic1:test1" 0 ut in "tran.temp"
.out plot element "mesfetc:m1" 1 it in "tran.ids"
.out plot element "mesfetc:m1" 2 it in "tran.power"

.end
